US05276041
1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro 7-(3-hydroxyimino-1-pyrrolidinyl)-4-oxoquinoline-3-carboxylic acid
The reaction was conducted at room temperature for 3 hours in the same manner as in Example 3 except that 300 mg (1 mmol) of 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 535 mg (2.5 mmol) of 3-hydroxyiminopyrrolidine-trifluoroacetate were used as starting materials and 5 ml of dimethyl sulfoxide was used as the solvent for reaction. 7 ml of isopropanol was added to the reaction mixture, and the precipitate thereby formed was collected by filtration and recrystallized from a mixture of 6 ml of dimethyl sulfoxide and 6 ml of isopropanol to give 170 mg of the desired product as pale yellow powder.

reactant | 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1 mmol, 300 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | 3-hydroxyiminopyrrolidine trifluoroacetate | 2.5 mmol, 535 mg | ON=C1CNCC1.FC(C(=O)[O-])(F)F
reactant | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | isopropanol | 7 ml | C(C)(C)O | C3H8O
product | 1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro 7-(3-hydroxyimino-1-pyrrolidinyl)-4-oxoquinoline-3-carboxylic acid | 170 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(CC1)=NO)F)F)=O)C(=O)O | C17H14F3N3O4
